US04925482
A solution of 134 g (0.83 mol) of bromine in 130 ml of methylene chloride is added dropwise at 10° C. with stirring to a solution of 100 g (0.83 mol) of 5-chloropentan-2-one in 400 ml of methylene chloride. The reaction mixture is stirred for a further hour at room temperature, then washed using water and dilute aqueous sodium carbonate solution and dried over sodium sulphate. The mixture is concentrated by stripping off the solvent under reduced pressure, and the residue is taken up in 200 ml of methanol and 63 g (0.83 mol) of n-propylmercaptan are added at 5° C. with stirring. A mixture of 93 g of potassium hydroxide powder in b 500 ml of methanol is then added dropwise. The reaction mixture is initially stirred for 2 hours at room temperature and then for 4 hours at 40° C. The mixture is then concentrated by stripping off the solvent under reduced pressure and the remaining residue is taken up in methylene chloride. The organic solution is washed successively using water, dilute aqueous sodium hydroxide solution and again using water, then concentrated under reduced pressure and then subjected to a vacuum distillation. In this manner, 42 g (32% of theory) of 1-acetyl-1-propylmercaptocyclopropane of boiling point 107° C./20 mbar are obtained.

reactant | bromine | 0.83 mol, 134 g | BrBr | Br2
reactant | 5-chloropentan-2-one | 0.83 mol, 100 g | ClCCCC(C)=O | C5H9ClO
reactant | n-propylmercaptan | 0.83 mol, 63 g | C(CC)S | C3H8S
reactant | potassium hydroxide | 93 g | [OH-].[K+]
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 500 ml | CO | CH4O
product | 1-acetyl-1-propylmercaptocyclopropane | 42 g, 32% | C(C)(=O)C1(CC1)SCCC | C8H14OS
